US04018780
A mixture of 29.7 g. (0.231 mole) of 4-fluorothiophenol, 41 g. (0.238 mole) of 2-chloro-5-nitroaniline and 14.9 g. (0.266 mole) of potassium hydroxide in 500 ml. of 95 percent aqueous ethanol is heated to its reflux temperature and maintained at reflux for one hour, then cooled with an ice bath. Some crude product is isolated as a solid by filtration, then the filtrate is diluted with water and extracted with four 300 ml. portions of chloroform. The combined extracts are washed with four 300 ml. portions of water and then with saturated sodium chloride solution and dried. Evaporation under vacuum provides a residue which is combined with the previously isolated crude solid product, 2-(4-fluorophenylthio)-5-nitroaniline. The solid is dissolved in 500 ml. of chloroform, then the solution is saturated with hydrogen chloride gas. The white precipitate which forms is separated by filtration, washed with chloroform and diethyl ether and dried to provide 2-(4-fluorophenylthio)-5-nitroaniline hydrochloride.

reactant | 4-fluorothiophenol | 0.231 mole | FC1=CC=C(C=C1)S | C6H5FS
reactant | 2-chloro-5-nitroaniline | 0.238 mole | ClC1=C(N)C=C(C=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | potassium hydroxide | 0.266 mole | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-(4-fluorophenylthio)-5-nitroaniline | FC1=CC=C(C=C1)SC1=C(N)C=C(C=C1)[N+](=O)[O-] | C12H9FN2O2S
